US08034814B2
18a) 1-(4-tert-Butyl-anilino)-4-[5-(furan-2-yl)-6-methoxy-(pyridin-3-yl)-methyl]phthalazine
To a solution of 366 mg (0.76 mMol) 1-(4-tert-butyl-anilino)-4-[5-bromo-6-methoxy-(pyridin-3-yl)-methyl]phthalazine (Ex. 17: a) in 7 ml degassed DMF under a N2-atmosphere are added 174 mg (0.15 mMol) of Pd[P(C6H5)3]4 and 0.6 ml (1.9 mMol) of 2-tributylstannyl-furan (Aldrich). After 4 h stirring at 100° C., the reaction mixture is diluted with EtOAc and washed with NaHCO3 solution. The aqueous layers are extracted twice with EtOAc, the organic phases washed with water, brine, dried (Na2SO4) and concentrated in vacuo. Column chromatography (SiO2; CH2Cl2/Et2O 7:3) and crystallization from DIPE yields the title compound. mp: 180-182° C.; ES-MS: (M+H)+=465; HPLC(Grad20-100) tRet=15.0.

reactant | 1-(4-tert-butyl-anilino)-4-[5-bromo-6-methoxy-(pyridin-3-yl)-methyl]phthalazine | 0.76 mMol, 366 mg | C(C)(C)(C)C1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC=2C=NC(=C(C2)Br)OC)C=C1 | C25H25BrN4O
reactant | 2-tributylstannyl-furan | 1.9 mMol, 0.6 ml | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd[P(C6H5)3]4 | 0.15 mMol, 174 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-tert-Butyl-anilino)-4-[5-(furan-2-yl)-6-methoxy-(pyridin-3-yl)-methyl]phthalazine | C(C)(C)(C)C1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC=2C=NC(=C(C2)C=2OC=CC2)OC)C=C1 | C29H28N4O2
